US07960385B2
(R)-2-Cyclopentyl-2-hydroxy-2-phenyl-1-piperazin-1-ylethanone
To a stirred solution of (R)-cyclopentylhydroxyphenyl acetic acid (10.0 g, 45.4 mmol) in DCM (200 mL) was added t-butyl 1-piperazinecarboxylate (8.5 g, 45.4 mmol). Into the reaction was added DIPEA (23.7 mL, 13.6 mmol), HOBt (10.4 g, 68.1 mmol), and then EDCI (10.4 g, 54.5 mmol). The mixture was stirred at room temperature for 12 hours. The mixture was then washed with 1N NaOH (300 mL), 1N HCl (300 mL) then saturated aqueous NaCl (300 mL). The organic layer was then removed, dried over MgSO4 and then filtered. The solvent was removed under reduced pressure. A solution of 20% TFA/DCM was added to the crude material, and the resulting mixture was stirred for 2 hours at room temperature. The solvent was removed under reduced pressure. DCM (300 mL) was added and the mixture was washed with saturated sodium bicarbonate (300 mL). The organic layer was then removed, dried over MgSO4 and filtered. The crude material was purified via silica gel chromatography (10% MeOH/DCM w/1% NH3 (aq)) to afford the title compound as a white powder (9.0 g, 31.2 mmol).

reactant | (R)-cyclopentylhydroxyphenyl acetic acid | 45.4 mmol, 10.0 g | C1(CCCC1)[C@](C(=O)O)(C1=CC=CC=C1)O | C13H16O3
reactant | t-butyl 1-piperazinecarboxylate | 45.4 mmol, 8.5 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIPEA | 13.6 mmol, 23.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 68.1 mmol, 10.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 54.5 mmol, 10.4 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-Cyclopentyl-2-hydroxy-2-phenyl-1-piperazin-1-ylethanone | 31.2 mmol, 9.0 g | C1(CCCC1)[C@](C(=O)N1CCNCC1)(C1=CC=CC=C1)O | C17H24N2O2
